US03956297
In the manner given in Example 5, 3-methoxy[(5H-dibenzo[b,e][1,4]diazepin-11-yl)amino]acetaldehyde dimethylacetal is treated with concentrated sulfuric acid to give 11-methoxy-9H-dibenzo[b,f]imidazo[1,2-d][1,4]diazepine.

reactant | 3-methoxy[(5H-dibenzo[b,e][1,4]diazepin-11-yl)amino]acetaldehyde dimethylacetal | COC(CNC=1C2=C(NC3=C(N1)C=CC=C3)C=C(C=C2)OC)OC | C18H21N3O3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 11-methoxy-9H-dibenzo[b,f]imidazo[1,2-d][1,4]diazepine | COC1=CC2=C(C=3N(C4=C(N2)C=CC=C4)C=CN3)C=C1 | C16H13N3O
